US07838483B2
Phthalonitrile (1 g, 7.8 mmol) and hydroxylamine (1.9 cm3, 31.2 mmol, 4 eq) in EtOH (25 cm3) were stirred under reflux for 60 hours, after which the volatiles were removed under reduced pressure and the residue was washed with EtOH (2 cm3) and CH2Cl2 (2 cm3) to give the cyclised product isoindoline-1,3-dione dioxime (1.18 g, 85.4%) as a pale yellow solid, mp 272-275° C. (decomposed) (lit 271° C.).

reactant | Phthalonitrile | 7.8 mmol, 1 g | C(C=1C(C#N)=CC=CC1)#N | C8H4N2
reactant | hydroxylamine | 31.2 mmol, 1.9 cm3, 4 eq | NO | H3NO
reactant | EtOH | 25 cm3 | CCO | C2H6O
product | isoindoline-1,3-dione dioxime | 1.18 g, 85.4% | C1(NC(C2=CC=CC=C12)=NO)=NO | C8H7N3O2
